US07531546B2
To a solution of 2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester (1.12 g, 4.66 mol) in dichloromethane (10 ml), triethylamine (3.88 ml) and acetic anhydride (1.32 ml, 14 mmol) are added at 0° C. The reaction mixture is stirred for overnight, quenched with ice-water and extracted with dichloromethane. The combined extracts are washed with H2O, brine and dried over sodium sulphate to give crude 8-acetyl-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester (1.34 g).

reactant | 2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 4.66 mol, 1.12 g | C(C)(C)(C)OC(=O)N1CC2(CC1)CCNCC2 | C13H24N2O2
reactant | acetic anhydride | 14 mmol, 1.32 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3.88 ml | C(C)N(CC)CC | C6H15N
product | 8-acetyl-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 1.34 g | C(C)(C)(C)OC(=O)N1CC2(CC1)CCN(CC2)C(C)=O | C15H26N2O3
